US06071907
4-[8-Chloro-3,7-dibromo-5,6-dihydro-11H-benzo [5, 6]cyclohepta[1,2-b]pyridin-11-yl]-1-(4-thiomorpholinylacetyl)piperidine
To a solution of ~0.11 g of 4-[8-Chloro-3,7-dibromo-5,6-dihydro-11H-benzo[5,6 ]cyclohepta[1,2-b]pyridin-11-yl]-1-(chloroacetyl)piperidine in 5 ml of CH2Cl2 is added 0.12 ml of thiomorpholine and the mixture is stirred at ambient temperature for 24 h, and diluted with 20 ml of distilled water. The layers are separated and the aqueous layer is back extracted with 10 ml of CH2Cl2. The combined organic layer is washed once with saturated brine, dried over Mg2SO4, filtered and evaporated to a brown residue. Flash chromatography over 20 g silica gel with 200 ml of 3% MeOH/CH2Cl2 gives 0.12 g of the title compound, yield in two steps is 93.8%. MS: 614.5 (M+H).

reactant | 4-[8-Chloro-3,7-dibromo-5,6-dihydro-11H-benzo[5,6 ]cyclohepta[1,2-b]pyridin-11-yl]-1-(chloroacetyl)piperidine | ~0.11 g | ClC=1C=CC2=C(CCC=3C(=NC=C(C3)Br)C2C2CCN(CC2)C(CCl)=O)C1Br | C21H20Br2Cl2N2O
reactant | thiomorpholine | 0.12 ml | N1CCSCC1 | C4H9NS
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 4-[8-Chloro-3,7-dibromo-5,6-dihydro-11H-benzo [5, 6]cyclohepta[1,2-b]pyridin-11-yl]-1-(4-thiomorpholinylacetyl)piperidine | 0.12 g | ClC=1C=CC2=C(CCC=3C(=NC=C(C3)Br)C2C2CCN(CC2)C(CN2CCSCC2)=O)C1Br | C25H28Br2ClN3OS
